US09388189B2
a) N-(5-Bromo-2-chloropyridin-3-yl)-4-methoxybenzenesulfonamide
5-Bromo-2-chloropyridin-3-amine (1 g, 4.82 mmol) was dissolved in THF (5.5 ml) and a solution of sodium bis(trimethylsilyl)amide (1M in THF, 14.5 ml, 14.5 mmol) was added dropwise. Ten minutes later, 4-methoxybenzene-1-sulfonyl chloride (3 g, 14.5 mmol) was added and the reaction mixture stirred for 2 h. A saturated solution of sodium bicarbonate was then added dropwise and the reaction mixture extracted with dichloromethane (×3). The organic phase was dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 10%, dichloromethane-ethyl acetate) to obtain 1.49 g (82% yield) of the title compound. Purity: 100%

reactant | 5-Bromo-2-chloropyridin-3-amine | 4.82 mmol, 1 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | sodium bis(trimethylsilyl)amide | 14.5 mmol, 1M, 14.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-methoxybenzene-1-sulfonyl chloride | 14.5 mmol, 3 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 5.5 ml | C1CCOC1 | C4H8O
product | N-(5-Bromo-2-chloropyridin-3-yl)-4-methoxybenzenesulfonamide | 1.49 g, 82% yield | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=C(C=C1)OC | C12H10BrClN2O3S
